US05229402
N,N'-Carbonyldiimidazole (3.85 g) and 2 g of 2-pyrrolidinone were added to 20 ml of tetrahydrofuran, and the mixture was refluxed with heating for 8 hours. Next, 2.9 g of 4-methoxyaniline was added to the reaction mixture, and the mixture was further refluxed with heating for 8 hours. The solvent was then distilled off, and the resulting residue was subjected to silica gel column chromatography to obtain a chloroform eluate and crystals from, the eluate. The crystal were recrystallized from methanol, giving 4.7 g of 1-(4-methoxyphenylcarbamoyl)-2-pyrrolidinone (yield 85%) having a melting point of 113° to 114° C.

reactant | 2-pyrrolidinone | 2 g | N1C(CCC1)=O | C4H7NO
reactant | 4-methoxyaniline | 2.9 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(4-methoxyphenylcarbamoyl)-2-pyrrolidinone | 4.7 g, yield 85% | COC1=CC=C(C=C1)NC(=O)N1C(CCC1)=O | C12H14N2O3
